US04435567
A solution of 0.75 g i-propylamine with 5 ml aceton was added dropwise to a suspension of 1,5 g phenylcarbamoyl-benzoic acid sulfimide with 10 ml acetone, under stirring. The reaction mixture was stirred for 30 minutes at ambient temperature, then diluted with 50 ml water and cooled. The 0.75 g crystalline 1-phenyl-3-i-propylurea was isolated by filtration (melting point: 158°-160° C.).

reactant | i-propylamine | 0.75 g | C(C)(C)N | C3H9N
reactant | aceton | 5 ml | CC(=O)C | C3H6O
reactant | phenylcarbamoyl-benzoic acid sulfimide | 1,5 g | [SH2]=N.C1(=CC=CC=C1)NC(=O)C1=C(C(=O)O)C=CC=C1
reactant | acetone | 10 ml | CC(=O)C | C3H6O
solvent | water | 50 ml | O | H2O
product | 1-phenyl-3-i-propylurea | 0.75 g | C1(=CC=CC=C1)NC(=O)NC(C)C | C10H14N2O
